US07601870B2
5a {4-[(3-Fluoro-phenylamino)-methyl]-2,6-dimethyl-phenyl}-carbamic acid ethyl ester
To (4-formyl-2,6-dimethyl-phenyl)-carbamic acid ethyl ester (230 mg) and 3-fluoroaniline (122 mg) dissolved in dry ethanol (25 mL) was added 3 Å molecular sieves (0.5 g) and the reaction mixture was refluxed for 16 hours under argon. Upon cooling to 25° C., sodium cyanoborohydride (320 mg) and acetic acid (3 mL) were added and stirred for 1 hour. A second batch of sodium cyanoborohydride (320 mg) was added and the mixture stirred for 1 additional hour. Saturated aqueous sodium carbonate (5 mL) was added and the mixture stirred for 1 hour, water (50 mL) was added and the mixture was extracted with ethyl acetate (3×25 mL). The combined organic phases were dried over magnesium sulfate, concentrated in vacuo and purified by flash chromatography to furnish 95 mg (29% yield) of the title compound as a white solid. LC-MS-TOF (m/z) 317 (MH+); tR=3.37, (UV, ELSD) 99%, 96%. 1H NMR (500 MHz, CDCl3): 1.31 (b, 3H), 2.25 (s, 6H), 4.20 (m, 5H), 5.98 (b, 1H), 6.30 (dt, 1H), 6.39 (m, 2H), 7.06 (s, 2H), 7.08 (q, 1H).

reactant | (4-formyl-2,6-dimethyl-phenyl)-carbamic acid ethyl ester | 230 mg | C(C)OC(NC1=C(C=C(C=C1C)C=O)C)=O | C12H15NO3
reactant | 3-fluoroaniline | 122 mg | FC=1C=C(N)C=CC1 | C6H6FN
reactant | sodium cyanoborohydride | 320 mg | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 320 mg | C(#N)[BH3-].[Na+]
reactant | sodium carbonate | 5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | water | 50 mL | O | H2O
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | {4-[(3-Fluoro-phenylamino)-methyl]-2,6-dimethyl-phenyl}-carbamic acid ethyl ester | 95 mg, 29% yield | C(C)OC(NC1=C(C=C(C=C1C)CNC1=CC(=CC=C1)F)C)=O | C18H21FN2O2
